* SPICE Netlist
VDD VDD 0 DC 1.8
M1 Vout Vb 0 0 NMOS
M2 Vout Vin VDD VDD PMOS
? Missing component
Vb  Vb 0 DC
* NMOS model
.model NMOS NMOS 
* PMOS model
.model PMOS PMOS 
.end
